### PR TITLE
[Merged by Bors] - feat(Order/Basic): Add `ltByCases` API

### PR DESCRIPTION
**Pull request by wrenna-robson**
I noticed that `ltByCases` doesn't have any API, and it would be useful to have some when working trichotomously, especially if one wishes to define things trichotomously.

A non-dependent version is also defined.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Order/Basic.lean [hunk 1]
```diff
@@ -676,6 +675,97 @@ instance Order.Preimage.decidable {α β} (f : α → β) (s : β → β → Pro
...
+
+@[simp]
+lemma switchThree_ne (h : x ≠ y) : switchThree x y p q r = if x < y then p else r := ltByCases_ne h
+
+lemma switchThree_comm : switchThree x y p q r = switchThree y x r q p := ltByCases_comm
+
+lemma switchThree_congr (x' y' : α) {p' q' r' : P} (ltc : (x < y) ↔ (x' < y'))
+    (gtc : (y < x) ↔ (y' < x')) (hh'₁ : x' < y' → p = p')
+    (hh'₂ : x' = y' → q = q') (hh'₃ : y' < x' → r = r') :
+    switchThree x y p q r = switchThree x' y' p' q' r' := ltByCases_congr _ _ ltc gtc hh'₁ hh'₂ hh'₃
```
Comment (eric-wieser) [inline Mathlib/Order/Basic.lean:765]: What's the point in having a separate definition for the non-dependent case? Did you consider making it an `abbrev` so that at least the lemmas don't have to be repeated?

Comment (urkud) [reply Mathlib/Order/Basic.lean:765]: Also, I would call it `ltTrichotomy` to mirror `lt_trichotomy`.

File: Mathlib/Order/Basic.lean [hunk 2]
```diff
@@ -676,6 +675,97 @@ instance Order.Preimage.decidable {α β} (f : α → β) (s : β → β → Pro
...
+
+@[simp]
+lemma ltByCases_gt (h : y < x) {h₁ : x < y → P} {h₂ : x = y → P} {h₃ : y < x → P} :
+    ltByCases x y h₁ h₂ h₃ = h₃ h := (dif_neg h.not_lt).trans (dif_pos h)
+
+@[simp]
+lemma ltByCases_eq (h : x = y) {h₁ : x < y → P} {h₂ : x = y → P} {h₃ : y < x → P} :
+    ltByCases x y h₁ h₂ h₃ = h₂ h := (dif_neg h.not_lt).trans (dif_neg h.not_gt)
+
+@[simp]
```
Comment (urkud) [inline Mathlib/Order/Basic.lean:694]: I don't think that this lemma and the next one should be `simp`.

File: Mathlib/Order/Basic.lean (hunk 1 above)
Comment (linesthatinterlace) [reply Mathlib/Order/Basic.lean:765]: Well, we do it for ite (this is meant to be the analogy as ite is to dite). Similarly it's sometimes useful to have ergonomic versions of lemmas for that kind of thing? Again, there is precedent for this.

File: Mathlib/Order/Basic.lean (hunk 2 above)
Comment (linesthatinterlace) [reply Mathlib/Order/Basic.lean:694]: I don't have a good notion for when a lemma does or doesn't make a good simp lemma. Though I think I probably agree here, I thought these were a bit iffy.

File: Mathlib/Order/Basic.lean (hunk 1 above)
Comment (linesthatinterlace) [reply Mathlib/Order/Basic.lean:765]: Agreed that ltTrichotomy would be a good name

File: Mathlib/Order/Basic.lean (hunk 2 above)
Comment (urkud) [reply Mathlib/Order/Basic.lean:694]: A lemma is a good `simp` lemma if we (almost) always want to simplify LHS to RHS. In particular, RHS should be simpler than LHS.

Comment (linesthatinterlace) [reply Mathlib/Order/Basic.lean]: Removed, and also for `ltTrichotomy`.

File: Mathlib/Order/Basic.lean (hunk 1 above)
Comment (linesthatinterlace) [reply Mathlib/Order/Basic.lean]: I have changed it to `ltTrichotomy`,and made it an `abbrev`, but I still think there is a use for the lemmas (notably `simp` can't solve them - you'd have to unfold the definition). And the abbreviation is useful!

**Comment by linesthatinterlace** [comment]
For what it's worth, in the context of actually using these, I've found `ltByCases` worthwhile. This is because it calls for things of the form `x < y -> P`, wheras using a `match h : compare x y` construct gives you the requirement to make `P` adding the `h : compare x y = LT` hypothesis, say. But sometimes you want the former, because you then want to define things by cases and thus generalizing `h`: I am not really sure how to do that in term mode! If someone knows, please let me know... but in general I do think this adds utility.

File: Mathlib/Order/Basic.lean [hunk 3]
```diff
@@ -676,6 +675,93 @@ instance Order.Preimage.decidable {α β} (f : α → β) (s : β → β → Pro
...
+lemma ltByCases_congr (x' y' : α) {h₁ : x < y → P} {h₂ : x = y → P} {h₃ : y < x → P}
+    {h₁' : x' < y' → P} {h₂' : x' = y' → P} {h₃' : y' < x' → P} (ltc : (x < y) ↔ (x' < y'))
+    (gtc : (y < x) ↔ (y' < x')) (hh'₁ : ∀ (h : x' < y'), h₁ (ltc.mpr h) = h₁' h)
+    (hh'₂ : ∀ (h : x' = y'), h₂ ((eq_iff_eq_of_lt_iff_lt_of_gt_iff_gt ltc gtc).mp h) = h₂' h)
+    (hh'₃ : ∀ (h : y' < x'), h₃ (gtc.mpr h) = h₃' h) :
+    ltByCases x y h₁ h₂ h₃ = ltByCases x' y' h₁' h₂' h₃' := by
+    refine ltByCases x' y' (fun h => ?_) (fun h => ?_) (fun h => ?_)
+    · rw [ltByCases_lt h, ltByCases_lt (ltc.mpr h), hh'₁]
+    · rw [ltByCases_eq h, ltByCases_eq ((eq_iff_eq_of_lt_iff_lt_of_gt_iff_gt ltc gtc).mp h), hh'₂]
+    · rw [ltByCases_gt h, ltByCases_gt (gtc.mpr h), hh'₃]
```
Comment (jcommelin) [inline Mathlib/Order/Basic.lean:729]: Could you please create a variant of this, that proves
```
ltByCases x y h₁ h₂ h₃ = Q
```
by splitting it into 3 goals `(hlt : x < y) → h₁ hlt = Q`, `(heq : x = y) → h₂ heq = Q`, ...

It can then also be used to slightly golf this congr proof.

Comment (jcommelin) [reply Mathlib/Order/Basic.lean:729]: I meant something like
```
lemma ltByCases_rec {h₁ : x < y → P} {h₂ : x = y → P} {h₃ : y < x → P} (p : P)
    (hlt : (h : x < y) → h₁ h = p) (heq : (h : x = y) → h₂ h = p) (hgt : (h : y < x) → h₃ h = p) :
    ltByCases x y h₁ h₂ h₃ = p := by
    simp [ltByCases, *]
```
But maybe it's actually not completely trivial to use this to golf the congr lemma.

Comment (linesthatinterlace) [reply Mathlib/Order/Basic.lean:729]: Huh. I am not quite sure I see the usefulness of that. I'm trying to see how I'd use it in practice.

Comment (jcommelin) [reply Mathlib/Order/Basic.lean:729]: Well, I have a use case for it (-; I can use this api to cleanup parts of the proof that shows that the nerve of a category is a quasicategory. And this extra lemma would be useful for me there.

Comment (linesthatinterlace) [reply Mathlib/Order/Basic.lean:729]: Yeah, fair. When I have a mo I'll stick it in.

**Comment by jcommelin** [comment]
I think this looks good now. After you add the suggested lemma, please feel free to merge this.

bors d+

File: Mathlib/Order/Basic.lean (hunk 3 above)
Comment (linesthatinterlace) [reply Mathlib/Order/Basic.lean]: I added it and also a couple more lemmas (I hope that's OK, they were natural accompaniments).

**Comment by jcommelin** [comment]
Thanks :tada:

bors merge
